US07659296B2
Preparation of [(2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carbonyl)-amino]-acetic acid
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid (150 mg, 0.343 mmol), DMAP (125 mg, 1.03 mmol), EDC (99 mg, 0.514 mmol), and glycine methyl ester hydrochloride (64 mg, 0.514 mmol) are reacted and hydrolyzed analogous to Example 4 to give the title product (130 mg, 76%). MS (ES) m/e: 495.3 (M+1), 493.3 (M−1).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid | 0.343 mmol, 150 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(N1)C=C(C=C2)C(=O)O)C)=O)(C)C | C26H31NO5
reactant | EDC | 0.514 mmol, 99 mg
reactant | glycine methyl ester hydrochloride | 0.514 mmol, 64 mg | Cl.COC(CN)=O
catalyst | DMAP | 1.03 mmol, 125 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carbonyl)-amino]-acetic acid | 130 mg, 76% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(N1)C=C(C=C2)C(=O)NCC(=O)O)C)=O)(C)C | C28H34N2O6
